US06316637B1
To a solution of 5-nitro-benzimidazole (2.8 g, 17 mmol) in THF was added 16 ml of EtMgBr solution (48 mmol) and reaction mixture was stirred for 2 h at −15° C. A solution of tetrachloro-1,4-benzoquinone (8.8 g, 36 mmol) in THF was added dropwise into reaction mixture, which was allowed to warm up to 25° C. over 1 h. Silica gel(20 g) was added into reaction mixture and solvent was removed in vacuo to provide a brown silica gel powder which was subjected to column chromatography (EtOAc, neat) to provide 1.7 g (8.9 mmol, 52%) of 4-ethyl-5-nitrobenzimidazole, which was subsequently subjected to hydrogenation (H2, Pd/C) to yield 1.32 g (8.2 mmol) of 4-ethyl-5-aminobenzimidazole.

reactant | 5-nitro-benzimidazole | 17 mmol, 2.8 g | [N+](=O)([O-])C1=CC2=C(N=CN2)C=C1 | C7H5N3O2
reactant | EtMgBr | 48 mmol, 16 ml | CC[Mg+].[Br-]
reactant | tetrachloro-1,4-benzoquinone | 36 mmol, 8.8 g | ClC1=C(C(C(=C(C1=O)Cl)Cl)=O)Cl | C6Cl4O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 4-ethyl-5-nitrobenzimidazole | 8.9 mmol, 1.7 g, 52% | C(C)C1=C(C=CC=2N=CNC21)[N+](=O)[O-] | C9H9N3O2
